US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-[(dimethylamino)methyl]aniline to generate the title compound. The 3-[(dimethylamino)methyl]aniline was prepared by treatment of commercial 3-nitrobenzoyl chloride with dimethylamine followed by sequential reduction with SnCl2 in EtOAc at 20° C. for 18 hours and then BH3 /THF.

reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | dimethylamine | CNC | C2H7N
reactant | SnCl2 | Cl[Sn]Cl
reactant | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[(dimethylamino)methyl]aniline | CN(C)CC=1C=C(N)C=CC1 | C9H14N2
